US06239131B1
Preparation of 3-[3-[1-(2-toluoylmethyl)-2-oxo-5-acetyl-8-methyl-1,3,4,5-tetrahydro-2H-1,5-benzodiazepin-3-yl]ureido]benzoic acid
1-[1-(2-Toluoylmethyl)-2-oxo-5-acetyl-8-methyl-1,3,4,5-tetrahydro-2H-1,5-benzodiazepin-3-yl]-3-(3-ethoxycarbonylphenyl)urea (670 mg) was dissolved in methanol (32 ml), aqueous lithium hydroxide monohydrate (253 mg) solution (16 ml) and tetrahydrofuran (16 ml) were added, and the mixture was refluxed for 45 minutes, the reaction mixture was concentrated under reduced pressure, the residue was dissolved in water (150 ml), the solution was washed with diethyl ether, acidified with 1N hydrochloric acid, and extracted with methylene chloride. The organic layer was washed with saturated brine, dried over anhydrous magnesium sulfate, the solvent was evaporated under reduced pressure, diisoproryl ether was added to the residue for trituration, collected by filtration, to thereby obtain 370 mg of the titled compound.

reactant | 1-[1-(2-Toluoylmethyl)-2-oxo-5-acetyl-8-methyl-1,3,4,5-tetrahydro-2H-1,5-benzodiazepin-3-yl]-3-(3-ethoxycarbonylphenyl)urea | 670 mg | C=1(C(=CC=CC1)C(=O)CN1C(C(CN(C2=C1C=C(C=C2)C)C(C)=O)NC(=O)NC2=CC(=CC=C2)C(=O)OCC)=O)C | C31H32N4O6
reactant | lithium hydroxide monohydrate | 253 mg | O.[OH-].[Li+]
reactant | tetrahydrofuran | 16 ml | O1CCCC1 | C4H8O
solvent | methanol | 32 ml | CO | CH4O
product | 3-[3-[1-(2-toluoylmethyl)-2-oxo-5-acetyl-8-methyl-1,3,4,5-tetrahydro-2H-1,5-benzodiazepin-3-yl]ureido]benzoic acid | 370 mg | C=1(C(=CC=CC1)C(=O)CN1C(C(CN(C2=C1C=C(C=C2)C)C(C)=O)NC(NC=2C=C(C(=O)O)C=CC2)=O)=O)C | C29H28N4O6
